US06348598B1
Using a reflux apparatus equipped with a 20-plates Oldershaw column as the distillation column, a 3-liter four-necked flask with a side arm was charged with 1,401 g (14 moles) of methyl methacrylate, 701 g (7 moles) of cyclohexanol, 12.6 g of dibutyltin oxide, and 1.18 g (corresponding to 0.1% of the theoretical yield of the product) of IB as a polymerization inhibitor. This mixture was subjected to an ester exchange reaction. The methanol formed as a by-product during reaction was removed from the system together with the methyl methacrylate. The resulting reaction product was purified by simple distillation using an empty column having a length of 20 cm, so that 740 g of cyclohexyl methacrylate was obtained. During the course of the reaction and distillation, polymerization occurred neither in the reactor nor the column. The cyclohexyl methacrylate thus obtained had a color number (APHA) of not greater than 5.

reactant | methyl methacrylate | 14 moles, 1,401 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | cyclohexanol | 7 moles, 701 g | C1(CCCCC1)O | C6H12O
catalyst | dibutyltin oxide | 12.6 g | C(CCC)[Sn](CCCC)=O
solvent | methanol | CO | CH4O
product | cyclohexyl methacrylate | 740 g | C(C(=C)C)(=O)OC1CCCCC1 | C10H16O2
